US08071584B2
1-{[4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-2-thienyl]methyl}hexahydro-1H-azepine
A solution of hexahydro-1H-azepine (0.025 g, 0.252 mmol) in THF (1 mL) was added to a solution of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-thiophenecarbaldehyde (0.05 g, 0.210 mmol) in THF (1 mL) in 1-Dram vial and let stir for 30 minutes. Sodium triacetoxyborohydride (0.225 g, 0.582 mmol) was then added to the mixture and let stir 18 h. The mixture was then agitated for 1 hour with MP-Isocyanate Resin (0.135 g, 0.230 mmol, 1.7 mmol/g) and THF (2 mL). The solution was filtered and the resin was washed with THF (4 mL×2). The combined solution was concentrated, giving 0.055 g (82%) of the title compound.

reactant | hexahydro-1H-azepine | 0.252 mmol, 0.025 g | N1CCCCCC1 | C6H13N
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-thiophenecarbaldehyde | 0.210 mmol, 0.05 g | CC1(OB(OC1(C)C)C=1C=C(SC1)C=O)C | C11H15BO3S
reactant | Sodium triacetoxyborohydride | 0.582 mmol, 0.225 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Isocyanate | 0.230 mmol, 0.135 g | [N-]=C=O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-{[4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-2-thienyl]methyl}hexahydro-1H-azepine | 0.055 g, 82% | CC1(OB(OC1(C)C)C=1C=C(SC1)CN1CCCCCC1)C | C17H28BNO2S
